US07034039B2
Tert-butyl[6-hydroxy-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.35 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate solution (5 ml.) The solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduce pressure, and the residue was crystallized from ethyl acetate-diisopropyl ether to give 3-(aminomethyl)-6-hydroxy-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone hydrochloride (0.10 g, 83.3%) as crystals.

reactant | Tert-butyl[6-hydroxy-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.35 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)O)=O)CC(C)C)=O | C23H28N2O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-6-hydroxy-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone hydrochloride | 0.10 g, 83.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)O)=O)CC(C)C | InChI=1S/C18H20N2O2S.ClH/c1-11(2)10-20-15(9-19)17(16-4-3-7-23-16)14-8-12(21)5-6-13(14)18(20)22;/h3-8,11,21H,9-10,19H2,1-2H3;1H
